US07528147B2
{1-[2-(5,6-Dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester is prepared as described in Example 179a starting with 0.13 g of {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester instead of the [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine used in Example 179a and 0.805 cm3 of 5N potassium hydroxide. 0.07 g of {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester is obtained, the characteristics of which are as follows:

reactant | {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester | 0.13 g | C(C)(C)(C)OC(NC1CN(C1)CC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)S(=O)(=O)C2=CC=C(C=C2)C)=O | C34H39N5O6S
reactant | potassium hydroxide | 5N, 0.805 cm3 | [OH-].[K+]
product | {1-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]azetidin-3-yl}carbamic acid tert-butyl ester | 0.07 g | C(C)(C)(C)OC(NC1CN(C1)CC1=C2C(=NC=C1)NC(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)=O | C27H33N5O4
